* C:\Users\sabri\OneDrive\Documents\HIBAH PENELITIAN\HIBAH DU 2024\circuit\cobanets.asc
V1 N001 0 SINE(0 5 {FR}) AC 1
CT N001 N002 1
LT P001 0 1
R1 N002 P001 0.1
LR 0 P002 1
R2 N003 P002 0.1
CR N004 N003 1
RB N004 0 10
K LT LR 0.6
.backanno
.end
